US09169243B2
To the solution of 2,4-dibromothiazole (50 g, 207 mmol, 1.0 eq.) in Et2O (1000 mL) was added n-BuLi (90 mL, 2.5 M, 1.1 eq.) at −78° C. dropwise and it was stirred for one hour. The reaction solution was poured into dry CO2 at −78° C. and the reaction mixture was warmed to the room temperature. TLC and LCMS showed the reaction was complete. It was quenched with water (100 ml). The Et2O phase was removed. The aqueous phase was adjusted to pH to 2-3 and extracted with ethyl acetate. The organic phase was dried, filtered and concentrated to obtain 4-bromothiazole-2-carboxylic acid. 1HNMR (400 MHz, DMSO): δ 8.23 (1H, s).

reactant | 2,4-dibromothiazole | 207 mmol, 50 g, 1.0 eq. | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | n-BuLi | 2.5 M, 90 mL, 1.1 eq. | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
solvent | Et2O | 1000 mL | CCOCC | C4H10O
product | 4-bromothiazole-2-carboxylic acid | BrC=1N=C(SC1)C(=O)O | C4H2BrNO2S
